US07667041B2
Synthesis of 1-(4-bromo-2-fluoro-6-methoxyphenyl)-1H-imidazole
To an acetone (10 mL) solution of 5-bromo-2,3-difluoro phenol (600 μL), potassium carbonate (1.10 g) and iodomethane (654 μL) were added one by one, and the reaction solution was refluxed for 4 hours. The reaction solution was concentrated under reduced pressure and the crude bromo compound was obtained. Potassium carbonate (1.10 g) and imidazole (429 mg) were added to a DMF (10 mL) solution of the obtained bromo compound (1.17 g) one by one, and the reaction solution was agitated at 80° C. overnight. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane:ethyl acetate=3:1→ethyl acetate:ethanol=10:1), and 510 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | 5-bromo-2,3-difluoro phenol | 600 μL | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 654 μL | IC | CH3I
reactant | Potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 429 mg | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-(4-bromo-2-fluoro-6-methoxyphenyl)-1H-imidazole | 510 mg | BrC1=CC(=C(C(=C1)OC)N1C=NC=C1)F | C10H8BrFN2O
